US03979390
A mixture of γ-[4-(4-chlorophenyl)-4-hydroxypiperidin-1-yl]-2,4-difluorobutyrophenone (1.5 g), piperidine (15.0 g) and toluene (50 ml) was heated for 23 hours under refluxing. The reaction mixture was diluted with water and extracted with toluene. The extract was sufficiently washed with water, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was treated with hydrochloric acid in ethanol-ether, and the resulting product was recrystallized from isopropanol to yield γ-[4-(4-chlorophenyl)-4-hydroxypiperidin-1-yl]-4-fluoro-2-piperidinobutyrophenone hydrochloride. M.P 218° - 220°C (decomposition).

reactant | γ-[4-(4-chlorophenyl)-4-hydroxypiperidin-1-yl]-2,4-difluorobutyrophenone | 1.5 g | ClC1=CC=C(C=C1)C1(CCN(CC1)C(CC(C(=O)C1=CC=CC=C1)F)F)O | C21H22ClF2NO2
reactant | piperidine | 15.0 g | N1CCCCC1 | C5H11N
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | γ-[4-(4-chlorophenyl)-4-hydroxypiperidin-1-yl]-4-fluoro-2-piperidinobutyrophenone hydrochloride | Cl.ClC1=CC=C(C=C1)C1(CCN(CC1)C(CC(C(=O)C1=CC=CC=C1)N1CCCCC1)F)O | InChI=1S/C26H32ClFN2O2.ClH/c27-22-11-9-21(10-12-22)26(32)13-17-30(18-14-26)24(28)19-23(29-15-5-2-6-16-29)25(31)20-7-3-1-4-8-20;/h1,3-4,7-12,23-24,32H,2,5-6,13-19H2;1H
